US07521455B2
6-chloro-2-methyl-3-{4-[3-(1-piperidinyl)propoxy]phenyl}pyrido[3,4-d]pyrimidin-4 (3H)-one
Using 5-amino-4-carboxy-2-chloropyridine and acetic anhydride as starting materials, 6-chloro-2-methyl-3-(4-hydroxyphenyl)pyrido[3,4-d]pyrimidin-4(3H)-one synthesized according to Example 1-(1) and -(2) (52 mg, 0.18 mmol), 1-(3-bromopropyl)piperidine hydrobromide (78 mg, 0.27 mmol) and potassium carbonate (100 mg, 0.72 mmol) were mixed in dimethylformamide (1 mL) and stirred at 80° C. for 1 hour. The solvent was distilled off under reduced pressure, distilled water was added, and the mixture was extracted with ethyl acetate. The organic phase was washed with distilled water, and dried with anhydrous sodium sulfate. The title compound (45 mg, 60%) was obtained as colorless crystals by purifying with silica gel column chromatography (chloroform/methanol=30/1) and recrystallizing (ethanol).

reactant | 5-amino-4-carboxy-2-chloropyridine | NC=1C(=CC(=NC1)Cl)C(=O)O | C6H5ClN2O2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | 6-chloro-2-methyl-3-(4-hydroxyphenyl)pyrido[3,4-d]pyrimidin-4(3H)-one | ClC1=CC2=C(N=C(N(C2=O)C2=CC=C(C=C2)O)C)C=N1 | C14H10ClN3O2
reactant | 1-(3-bromopropyl)piperidine hydrobromide | 0.27 mmol, 78 mg | Br.BrCCCN1CCCCC1
reactant | potassium carbonate | 0.72 mmol, 100 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 6-chloro-2-methyl-3-{4-[3-(1-piperidinyl)propoxy]phenyl}pyrido[3,4-d]pyrimidin-4 (3H)-one | 45 mg, 60% | ClC1=CC2=C(N=C(N(C2=O)C2=CC=C(C=C2)OCCCN2CCCCC2)C)C=N1 | C22H25ClN4O2
